US08349865B2
Method C, Step 4: 9-Bromo-5-[(2,4,6-trifluorophenyl)amino]benzo[c]-2,6-naphthyridin-1(2H)-one
To a solution of 9-bromo-1,5-dichlorobenzo[c]-2,6-naphthyridine (800 mg, 2.4 mmol) in THF (10 mL) were added 2,4,6 trifluoroaniline (359 mg, 2.4 mmol) and sodium tert-butoxide (703 mg, 7.32 mmol) and the reaction mixture was heated to 85° C. for 45 min. The solution was cooled to room temperature, quenched with methanol and concentrated under reduced pressure. The residue was purified by silica gel chromatography (100% hexane to 100% EtOAc, gradient elution) to afford 9-bromo-1-chloro-N-(2,4,6-trifluorophenyl)benzo[c]-2,6-naphthyridin-5-amine. 9-Bromo-1-chloro-N-(2,4,6-trifluorophenyl)benzo[c]-2,6-naphthyridin-5-amine was taken up in THF (10 mL) and 6 N HCl (10 mL) and heated to 85° C. for 2 hr. The reaction was cooled to room temperature, neutralized with saturated NaHCO3 and extracted with EtOAc. The organic layers were dried over Mg2SO4, filtered, and concentrated. Column chromatography on silica gel (100% hexane to 100% EtOAc) provided the title compound.

reactant | 9-Bromo-1-chloro-N-(2,4,6-trifluorophenyl)benzo[c]-2,6-naphthyridin-5-amine | BrC1=CC2=C(N=C(C3=CC=NC(=C23)Cl)NC2=C(C=C(C=C2F)F)F)C=C1 | C18H8BrClF3N3
reactant | HCl | 6 N, 10 mL | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 9-Bromo-5-[(2,4,6-trifluorophenyl)amino]benzo[c]-2,6-naphthyridin-1(2H)-one | BrC1=CC2=C(N=C(C=3C=CNC(C23)=O)NC2=C(C=C(C=C2F)F)F)C=C1 | C18H9BrF3N3O
